US07335711B2
To a solution of 3,6-di-t-butylfluorene (2.00 g, 7.19 mmol) and chloromethyl methyl ether (2.5 ml) in CS2 (15 ml) was added at 0° C. a solution of TiCl4 (0.4 ml) in CS2 (5 ml). The reaction mixture was stirred for 3 hours at room temperature. The mixture was poured into ice water and extracted with ether. The ether extract was dried over sodium sulfate and evaporated under vacuum to leave a residue, which was purified by column chromatography (hexane/CH2Cl2=10/1) and crystallization from hot heptanes. The product provided 2-chloromethyl-3,6-di-t-butylfluorene (yield 0.75 g). 1H NMR (CDCl3): δ 7.80 and 7.78 (each d, 1H, 4,5-H), 7.47 (d, 1H, J=8.1 Hz, H8), 7.34 (dd, 1H, J=8.1Hz, J=1.5Hz, H7), 7.31 (d, 1H, 1H, J=1.5 Hz, H1), 4.72 (s, 2H, CH2Cl), 3.87 (s, 2H, H9), 1.41 (s, 18H, t-Bu) and 2,7-dichloromethyl-3,6-di-t-butylfluorene (yield 0.63 g). 1H NMR (CDCl3): δ 7.87 (br s, 2H, 4,5-H), 7.34 (br s, 2H, 1,8-H), 4.75 (s, 4H, CH2Cl), 3.95 (s, 2H, H9), 1.42 (s, 18H, t-Bu) as indicated by the following reaction:

reactant | 3,6-di-t-butylfluorene | 7.19 mmol, 2.00 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | chloromethyl methyl ether | 2.5 ml | COCCl | C2H5ClO
solvent | CS2 | 15 ml | C(=S)=S | CS2
solvent | CS2 | 5 ml | C(=S)=S | CS2
catalyst | TiCl4 | 0.4 ml | Cl[Ti](Cl)(Cl)Cl
product | 2-chloromethyl-3,6-di-t-butylfluorene | yield 0.75 g | ClCC1=CC=2CC3=CC=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C | C22H27Cl
